US07084164B2
[4-(2-Bromophenyl)-5-(6-phenylpyridin-3-yl)-4H-1,2,4-triazol-3-yl]-N-(2-methoxyethyl)-N-methylamine
In a sealed tube, N-(2-methoxyethyl)methylamine (3 ml) was added to 5-[5-bromo-4-(2-bromophenyl)-4H-1,2,4-triazol-3-yl]-2-phenylpyridine (1.0 g) prepared in the Production Example 3, and stirred at 180° C. for 13 hours and at 200° C. for 24 hours. After the reaction solution was cooled to ambient temperature, chloroform was added to the solution, which was then washed with saturated aqueous sodium hydrogen carbonate solution. The organic layer was dried over anhydrous magnesium sulfate. After the solvent was evaporated under reduced pressure, the resulting residue was washed with ethyl acetate, to afford the entitled compound as white solid (711 mg, 70%). The physico-chemical values are as follows.

reactant | N-(2-methoxyethyl)methylamine | 3 ml | COCCNC | C4H11NO
reactant | 5-[5-bromo-4-(2-bromophenyl)-4H-1,2,4-triazol-3-yl]-2-phenylpyridine | 1.0 g | BrC=1N(C(=NN1)C=1C=CC(=NC1)C1=CC=CC=C1)C1=C(C=CC=C1)Br | C19H12Br2N4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | [4-(2-Bromophenyl)-5-(6-phenylpyridin-3-yl)-4H-1,2,4-triazol-3-yl]-N-(2-methoxyethyl)-N-methylamine | 711 mg, 70% | BrC1=C(C=CC=C1)N1C(=NN=C1C=1C=NC(=CC1)C1=CC=CC=C1)N(C)CCOC | C23H22BrN5O
